US07371748B2
N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-4-[(methyl-propionyl-amino)-methyl]-benzamide
Sodium hydride (4.8 mg, 60% disp. in mineral oil, 0.2 mmol) was added to N-methylpropionamide (1 ml, 11 mmol), followed by 4-chloromethyl-N-(7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-benzamide (50 mg, 1.2 mmol) and the reaction mixture was heated to 55° C. for 3 hrs. After cooling, the mixture was diluted with water (5 ml) and extracted twice with ethyl acetate (5 ml). The combined organic phases were dried with magnesium sulfate, filtered and evaporated. Final purification with preparative HPLC and final dry-freezing afforded the title compound as white solid (23 mg, 42% yield). MS: m/e=484(M+H+).

reactant | Sodium hydride | 0.2 mmol, 4.8 mg | [H-].[Na+]
reactant | N-methylpropionamide | 11 mmol, 1 ml | CNC(CC)=O | C4H9NO
reactant | 4-chloromethyl-N-(7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-benzamide | 1.2 mmol, 50 mg | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3COCCOC3)OC)C=C1 | C21H21ClN2O4S
solvent | water | 5 ml | O | H2O
product | N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-4-[(methyl-propionyl-amino)-methyl]-benzamide | 23 mg, 42% yield | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)CN(C(CC)=O)C)=O)OC | C25H29N3O5S
